US06114325
N-Decyl-[2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]formamide hydrochloride (Compound 11)
4N Hydrochloric acid--ethyl acetate solution (0.14 ml) was added to a solution of N-decyl-[2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]formamide (0.200 g) in ethyl acetate (2 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated, thereby yielding 0.209 g of the aimed compound as white syrup.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | N-decyl-[2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]formamide | 0.200 g | C(CCCCCCCCC)N(C=O)C1=C(C=CC=C1)COC(NCCCN(C)C)=O | C24H41N3O3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.14 ml | C(C)(=O)OCC | C4H8O2
product | N-Decyl-[2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]formamide hydrochloride | 0.209 g | Cl.C(CCCCCCCCC)N(C=O)C1=C(C=CC=C1)COC(NCCCN(C)C)=O | InChI=1S/C24H41N3O3.ClH/c1-4-5-6-7-8-9-10-13-19-27(21-28)23-16-12-11-15-22(23)20-30-24(29)25-17-14-18-26(2)3;/h11-12,15-16,21H,4-10,13-14,17-20H2,1-3H3,(H,25,29);1H
